US07371747B2
To (1R,2R)-N-(cyanomethyl)-2-(hydroxymethyl)cyclohexanecarboxamide (62 mg, 0.31 mmol) in a 4 mL sample vial was added 4-toluenesulfonyl chloride (73 mg, 0.38 mmol), 0.63 mL acetonitrile and pyridine (33 SL, 0.41 mmol). The reaction mixture was stirred at ambient temperature for 5 h after which the solvent was removed on a rotary evaporator. Chromatography of the residue on silica gel with 4:96 methanol:chloroform as eluent provided ((1R,2R)-2-{[(cyanomethyl)amino]carbonyl}cyclohexyl)methyl 4-methylbenzenesulfonate as a colorless, waxy solid.

reactant | (1R,2R)-N-(cyanomethyl)-2-(hydroxymethyl)cyclohexanecarboxamide | 0.31 mmol, 62 mg | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CO | C10H16N2O2
reactant | 4-toluenesulfonyl chloride | 0.38 mmol, 73 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 0.41 mmol | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 0.63 mL | C(C)#N | C2H3N
product | ((1R,2R)-2-{[(cyanomethyl)amino]carbonyl}cyclohexyl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1[C@@H](CCCC1)C(=O)NCC#N | C17H22N2O4S
